US07935721B2
Synthesis of 1′-pentyl-4′-{[3-(trifluoromethyl)phenyl]amino}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A mixture of 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (0.05 g, 0.12 mmol), 3-(trifluoromethyl)aniline (0.03 g, 0.17 mmol), Pd2(dba)3 (0.02 g, 0.01 mmol), xanthphos (0.007 g, 0.01 mmol), and sodium tert-butoxide (0.02 g, 0.17 mmol) in toluene (5.00 mL) was heated at 110° C. for 4 days. After cooling down to ambient temperature, the mixture was extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate/hexane to give the title compound (0.06 g, 71%) as a solid: MS (ES+) m/z 511.5 (M+1).

reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.12 mmol, 0.05 g | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | 3-(trifluoromethyl)aniline | 0.17 mmol, 0.03 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | xanthphos | 0.01 mmol, 0.007 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.17 mmol, 0.02 g | CC(C)([O-])C.[Na+]
solvent | toluene | 5.00 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.01 mmol, 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1′-pentyl-4′-{[3-(trifluoromethyl)phenyl]amino}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.06 g, 71% | C(CCCC)N1C(C2(C3=C(C=CC=C13)NC1=CC(=CC=C1)C(F)(F)F)COC=1C2=CC2=C(OCO2)C1)=O | C28H25F3N2O4
